US09253997B2
Synthesis of (4S)-4-{[(tert-butoxy)carbonyl]amino}-4-(5-methyl-1,3,4-oxadiazole-2-yl)butanoic acid benzyl ester
674 mg (2 mmol) of (S)-5-(benzyloxy)-2-(tert-butoxycarbonylamino)-5-oxopentanoic acid (Boc-Glu (OBzl)-OH) and 148 mg (2 mmol) of acetohydrazide were added with 5 ml of tetrahydrofuran, added with 356 mg of N,N-carbonyl diimidazole and stirred at room temperature overnight. The solvent was distilled away, and the resultant was purified using purified purification step A to obtain a crude purified substance of (4S)-4-(N′-acetylhydrazinecarbonyl)-4-{[(tert-butoxy)carbonyl]amino}butanoic acid benzyl ester. The obtained crude purified substance was dissolved in 2 ml of methylene chloride, which was added with 72 mg of Burgess reagent and stirred at room temperature overnight. Another 72 mg of Burgess reagent was added and stirred for two days. After distilling the solvent away, purification was carried out using purification step A to obtain the title compound.

reactant | (S)-5-(benzyloxy)-2-(tert-butoxycarbonylamino)-5-oxopentanoic acid | 2 mmol, 674 mg | C(C1=CC=CC=C1)OC(CC[C@@H](C(=O)O)NC(=O)OC(C)(C)C)=O | C17H23NO6
reactant | acetohydrazide | 2 mmol, 148 mg | C(C)(=O)NN | C2H6N2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (4S)-4-{[(tert-butoxy)carbonyl]amino}-4-(5-methyl-1,3,4-oxadiazole-2-yl)butanoic acid benzyl ester | C(C1=CC=CC=C1)OC(CC[C@@H](C=1OC(=NN1)C)NC(=O)OC(C)(C)C)=O | C19H25N3O5
